US08314138B2
Synthesis of 4-methyl-2-[1-(4-[1,2,4]triazol-1-yl-benzyl)-1H-pyrazol-3-yl]-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide
The title compound was prepared from 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide and 1-(4-bromomethyl-phenyl)-1H-[1,2,4]-triazole as described in Example 49 and isolated as a white solid (76 mg, 51% yield). 1H NMR (400 MHz, CDCl3) δ 8.62 (s, 1H), 8.53-8.57 (m, 1H), 8.54 (s, 1H), 8.10 (s, 1H), 7.66-7.71 (m, 3H), 7.45 (bs, 1H), 7.39 (d, J=8 Hz, 1H), 7.37-7.41 (m, 1H), 6.88 (s, 1H), 6.05-6.12 (m, 1H), 5.41 (s, 2H), 4.63 (d, J=4 Hz, 2H), 2.75 (s, 3H); MS (M+H)+=457.2; Rt=1.08 min; HRMS (M+H)+=457.16.

reactant | 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C=1NN=CC1)C | C14H13N5OS
reactant | 1-(4-bromomethyl-phenyl)-1H-[1,2,4]-triazole | BrCC1=CC=C(C=C1)N1N=CN=C1 | C9H8BrN3
product | 4-methyl-2-[1-(4-[1,2,4]triazol-1-yl-benzyl)-1H-pyrazol-3-yl]-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C1=NN(C=C1)CC1=CC=C(C=C1)N1N=CN=C1)C | C23H20N8OS
